US05376670
A slurry of 0.52 g (1.7 mmol) of 4-(5-amino-1,3,4-thiadiazol-2-yl]-2,6-bis(1,1-dimethylethyl)phenol and 0.26 g (2.58 mmol) of triethylamine in 6 ml of toluene is treated with 0.30 g (2.58 mmol) of methane sulfonylchloride and warmed at 95°-105° C. for 21 hours under Nitrogen atmosphere. The reaction is cooled to room temperature and poured onto cold aqueous 1N NaOH (100 ml) and extracted with t-butylmethyl ether (3×20 ml). The aqueous layer is acidified with aqueous 1N HCl and filtered to give a yellow solid. Recrystallization from absolute ethanol gives 0.19 g (0.65 g, theor., 29%) of N-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazol-2-yl]methanesulfonamide as a solid: mp 293°-294° C.

reactant | 4-(5-amino-1,3,4-thiadiazol-2-yl]-2,6-bis(1,1-dimethylethyl)phenol | 1.7 mmol, 0.52 g | NC1=NN=C(S1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H23N3OS
reactant | triethylamine | 2.58 mmol, 0.26 g | C(C)N(CC)CC | C6H15N
reactant | methane sulfonylchloride | 2.58 mmol, 0.30 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaOH | 1N, 100 ml | [OH-].[Na+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazol-2-yl]methanesulfonamide | 0.19 g, 29% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN=C(S1)NS(=O)(=O)C | C17H25N3O3S2
